US08937091B2
2-methoxy-6-crotonoylnaphthalene 8230
2-methoxynaphthalene (158 mg), crotonoyl chloride (124 mg), and aluminium chloride (150 mg) were reacted in dichloromethane (1.5 mL) at from 0° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (156 mg).

reactant | 2-methoxynaphthalene | 158 mg | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | crotonoyl chloride | 124 mg | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | aluminium chloride | 150 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 2-methoxy-6-crotonoylnaphthalene | 156 mg | COC1=CC2=CC=C(C=C2C=C1)C(\C=C\C)=O | C15H14O2
